US06716851B2
4-(2-Chloro-5-methoxyanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 2-chloro-5-methoxyaniline (38 mg, 0.193 mmol) similar to Example 13 and isolated as a pink solid (18 mg, 25%). 1H NMR (CDCl3): 8.82 (dd, J=1.4, 4.7 Hz, 2H), 8.32 (dd, J=1.7, 4.4 Hz, 2H), 7.84 (d, J=2.1 Hz, 1H), 7.50 (s, 1H), 7.41 (d, J=8.7 Hz, 1H), 7.02 (s, 1H), 6.77 (dd, J=3.3, 9.3 Hz, 1H), 3.90 (s, 3H).

reactant | 4-chloro-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=CC=NC=C1 | C10H5ClF3N3
reactant | 2-chloro-5-methoxyaniline | 0.193 mmol, 38 mg | ClC1=C(N)C=C(C=C1)OC | C7H8ClNO
product | 4-(2-Chloro-5-methoxyanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine | ClC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=CC=NC=C2)C=C(C=C1)OC | C17H12ClF3N4O
